US07064123B1
To a solution of 2-(2-morpholin-4-yl-2-oxo-ethyl)-2-(3-phenyl-propyl)-malonic acid diethyl ester (934 mg, 2.3 mmol) in a 2:1 mixture of ethanol and water (12 ml) LiOH.H2O (193.3 mg, 4.61 mmol) was added and heated at 40° C. for 19 hrs. Ethanol was evaporated under reduced pressure, the residual aqueous mixture was acidified to pH 1 and extracted with methylene chloride (2×40 ml). The organic extract was dried with MgSO4 and evaporated under reduced pressure to give 2-(2-morpholin-4-yl-2-oxo-ethyl)-2-(3-phenyl-propyl)-malonic acid monoethyl ester as a thick, yellow oil (831 mg); 1H NMR (CDCl3) 7.4–7.1 (m, 6H), 4.25 (q, J=7.1 Hz, 2H), 3.8–3.4 (m, 8H), 3.20 (d, J=16.4 Hz, 1H), 2.9 (d, J=16.4 Hz, 1H), 2.6 (m, 2H), 2.1–1.8 (m, 4H), 1.25 (t, J=7.1 Hz, 3H). MS: 378 (MH+).

reactant | 2-(2-morpholin-4-yl-2-oxo-ethyl)-2-(3-phenyl-propyl)-malonic acid diethyl ester | 2.3 mmol, 934 mg | C(C)OC(C(C(=O)OCC)(CCCC1=CC=CC=C1)CC(=O)N1CCOCC1)=O | C22H31NO6
reactant | water | 4.61 mmol, 12 ml, 193.3 mg | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-morpholin-4-yl-2-oxo-ethyl)-2-(3-phenyl-propyl)-malonic acid monoethyl ester | C(C)OC(C(C(=O)O)(CCCC1=CC=CC=C1)CC(=O)N1CCOCC1)=O | C20H27NO6
